US04315859
A mixture of 155 g of triacetone amine, 113 g of diethylene triamine, and 2.5 g of conc. sulfuric acid in 2.5 liters of methanol is hydrogenated in the presence of 7 g of 5% palladium on carbon in the manner described in Example 1. In addition to yielding 1,7-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,4,7-triazaheptane, distillation of the hydrogenation mixture yields at 115°-118° C./0.09 mm Hg 1-(2,2,6,6-tetramethyl-4-piperidyl)-1,4,7-triazaheptane as main product.

reactant | triacetone amine | 155 g | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
reactant | diethylene triamine | 113 g | NCCNCCN | C4H13N3
reactant | sulfuric acid | 2.5 g | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 2.5 liters | CO | CH4O
catalyst | palladium on carbon | 7 g | [Pd] | Pd
product | 1-(2,2,6,6-tetramethyl-4-piperidyl)-1,4,7-triazaheptane | CC1(NC(CC(C1)NCCNCCN)(C)C)C | C13H30N4
